US09340538B2
Step B: (S)-4-benzyl-3-methyl-5-oxomorpholine-3-carboxylic acid
(S)-2-(benzylamino)-3-hydroxy-2-methylpropanoic acid (2.09 g, 10 mmol) was reacted with chloroacetyl chloride (1.74 g, 15.4 mmol) according to the procedure as described in Example 46, Step B to give the title compound as a gray solid (1.62 g, 65%). The compound was characterized by the following spectroscopic data:

reactant | (S)-2-(benzylamino)-3-hydroxy-2-methylpropanoic acid | 10 mmol, 2.09 g | C(C1=CC=CC=C1)N[C@](C(=O)O)(CO)C | C11H15NO3
reactant | chloroacetyl chloride | 15.4 mmol, 1.74 g | ClCC(=O)Cl | C2H2Cl2O
product | (S)-4-benzyl-3-methyl-5-oxomorpholine-3-carboxylic acid | 1.62 g, 65% | C(C1=CC=CC=C1)N1[C@@](COCC1=O)(C(=O)O)C | C13H15NO4
